US04284634
A mixture of methyl 2-(2-nitrobenzylidene)-4,4-dimethoxyacetoacetate (15.19 g) and methyl 3-aminocrotonate (6.50 g) was heated at 60° to 63° C. for 6 hours and at 100° to 105° C. for 4 hours and 45 minutes. The resulting crystalline mass was triturated with methanol and collected by filtration to give crystals of dimethyl 2-methyl-4-(2-nitrophenyl)-6-dimethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (12.04 g). Thus obtained crystals (1.07 g) were recrystallized from methanol (5 ml) to give pure crystals (0.93 g), m.p. 132° to 133° C.

reactant | methyl 2-(2-nitrobenzylidene)-4,4-dimethoxyacetoacetate | 15.19 g | [N+](=O)([O-])C1=C(C=C(C(=O)OC)C(=O)C(OC)OC)C=CC=C1 | C14H15NO7
reactant | methyl 3-aminocrotonate | 6.50 g | N\C(=C/C(=O)OC)\C | C5H9NO2
product | dimethyl 2-methyl-4-(2-nitrophenyl)-6-dimethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 12.04 g | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)C(OC)OC | C19H22N2O8
